US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-N-(4,6-dimethylpyridin-2-yl)-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine and 4,6-dimethylpyridin-2-amine, and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.31, 1.38, 2.37, 2.46, 2.62, 2.90, 6.68, 7.31, 7.37, 7.52, 8.28; HRMS (ESI+) Calcd for C21H22Cl2N4 (M+H)+ 401.1299, found 401.1317.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine | BrC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C14H13BrCl2N2
reactant | 4,6-dimethylpyridin-2-amine | CC1=CC(=NC(=C1)C)N | C7H10N2
product | 5-(2,4-dichlorophenyl)-N-(4,6-dimethylpyridin-2-yl)-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1=NC(=CC(=C1)C)C)CC | C21H22Cl2N4
